### PR TITLE
[Merged by Bors] - feat: binary heaps

### PR DESCRIPTION
**Pull request by digama0**
The main addition is a type `BinaryHeap α lt` of binary max-heaps stored in an array.

Also some cleanup:

* Fix line length and formatting in `Data.Fin.Basic`
* Add `Mathlib.Init.WF` for some more tools for proving well foundedness
* Use `termination_by` instead of manual termination compilation for `String.toAsciiByteArray` and `ByteSlice.forIn`

I originally wrote `heapifyDown` et al without the embedded postcondition, but proving facts about definitions like `heapifyDown` is incredibly painful right now.

### CODE REVIEW

File: Mathlib/Data/BinaryHeap.lean [hunk 1]
```diff
@@ -0,0 +1,139 @@
...
+    let a' := a.swap i j
+    let j' := ⟨j, by rw [a.size_swap i j]; exact j.1.2⟩
+    have : (skipLeft Fin.upRel).1 ⟨a'.size, j'⟩ ⟨a.size, i⟩ := by
+      have H {n} (h : n = a.size) (j' : Fin n) (e' : i.1 < j'.1) :
+        (skipLeft Fin.upRel).1 ⟨n, j'⟩ ⟨a.size, i⟩ := by
+        subst n; exact PSigma.Lex.right _ e'
+      exact H (a.size_swap i j) _ (lt_of_le_of_ne j.2 h)
+    let ⟨a₂, h₂⟩ := heapifyDown lt a' j'
+    ⟨a₂, h₂.trans (a.size_swap i j)⟩
+termination_by invImage (fun ⟨_, _, a, i⟩ => (⟨a.size, i⟩ : (n : ℕ) ×' Fin n)) $ skipLeft Fin.upRel
```
Comment (gebner) [inline Mathlib/Data/BinaryHeap.lean:35]: Here's a simpler termination argument:
```lean
/-- Core operation for binary heaps, expressed directly on arrays.
Given an array which is a max-heap, push item `i` down to restore the max-heap property. -/
def heapifyDown (lt : α → α → Bool) (a : Array α) (i : Fin a.size) :
  {a' : Array α // a'.size = a.size} :=
  let left := 2 * i.1 + 1
  let right := left + 1
  have left_le : i ≤ left := Nat.le_trans
    (by rw [Nat.succ_mul, Nat.one_mul]; exact Nat.le_add_left i i)
    (Nat.le_add_right ..)
  have right_le : i ≤ right := Nat.le_trans left_le (Nat.le_add_right ..)
  have i_le : i ≤ i := Nat.le_refl _
  have j : {j : Fin a.size // i ≤ j} := if h : left < a.size then
    if lt (a.get i) (a.get ⟨left, h⟩) then ⟨⟨left, h⟩, left_le⟩ else ⟨i, i_le⟩ else ⟨i, i_le⟩
  have j := if h : right < a.size then
    if lt (a.get j) (a.get ⟨right, h⟩) then ⟨⟨right, h⟩, right_le⟩ else j else j
  if h : i.1 = j then ⟨a, rfl⟩ else
    let a' := a.swap i j
    let j' := ⟨j, by rw [a.size_swap i j]; exact j.1.2⟩
    have : a.size - j < a.size - i :=
      Nat.sub_lt_sub_left i.2 <| Nat.lt_of_le_and_ne j.2 h
    let ⟨a₂, h₂⟩ := heapifyDown lt a' j'
    ⟨a₂, h₂.trans (a.size_swap i j)⟩
termination_by measure fun ⟨α, lt, a, i⟩ => a.size - i
decreasing_by simp [measure, invImage, InvImage]; assumption
```

BTW, instead of `Fin.upRel` I think it would be more ergonomic to talk about `-i` and use the standard order.  (alas, this doesn't work because you then have two versions of `-`: one in `Fin a.size` and one in `Fin a'.size`...)

File: Mathlib/Data/BinaryHeap.lean [hunk 2]
```diff
@@ -0,0 +1,139 @@
...
+@[simp] theorem size_heapifyUp (lt : α → α → Bool) (a : Array α) (i : Fin a.size) :
+  (heapifyUp lt a i).1.size = a.size := (heapifyUp lt a i).2
+
+/-- `O(1)`. Build a new empty heap. -/
+@[inline] def empty (lt) : BinaryHeap α lt := ⟨#[]⟩
+
+instance (lt) : Inhabited (BinaryHeap α lt) := ⟨empty _⟩
+
+/-- `O(1)`. Get the number of elements in a `BinaryHeap`. -/
+@[inline] def size {lt} (self : BinaryHeap α lt) : Nat := self.1.size
```
Comment (gebner) [inline Mathlib/Data/BinaryHeap.lean:81]:
```suggestion
def size {lt} (self : BinaryHeap α lt) : Nat := self.1.size
```

I think almost all of the `@[inline]` annotations in this file are unnecessary, and I'd rather put a `@[specialize]` on `heapSort`.

**Comment by gebner** [comment]
> I originally wrote heapifyDown et al without the embedded postcondition, but proving facts about definitions like heapifyDown is incredibly painful right now.

This is true, as far as I can tell Lean doesn't even generate an equational lemma for WF definitions at the moment.  And if you make one yourself you still need to deal with the huge if-then-else soup and use well-founded induction.

File: Mathlib/Init/WF.lean [hunk 3]
```diff
@@ -0,0 +1,12 @@
+
+noncomputable def skipLeft {β : α → Sort _}
```
[the remark this answers is not in the document]
Comment (digama0) [reply Mathlib/Init/WF.lean:2]: They are annoying to use if they are namespaced. Hopefully leanprover/lean4#879 will be handled at some point, which will make this unnecessary in most cases.

There is a similar definition in `Init.WF`, but it is nondependent. Here the idea is to introduce the parameter to skip as a variable in the context so it can be used in later relations (e.g. in `Fin.upRel`).

File: Mathlib/Data/BinaryHeap.lean (hunk 1 above)
Comment (digama0) [reply Mathlib/Data/BinaryHeap.lean:35]: The whole point of `Nat.upRel` and `Fin.upRel` is so that you don't have to do this `a - x < a - y` argument all the time. I think we should try to make this kind of proof more ergonomic, there is no reason to always be doing downward induction. I'm not too happy with the `skipLeft` stuff, I think more should be automated than currently, but I do think that the original proof is in the right direction.

File: Mathlib/Init/WF.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (gebner) [reply Mathlib/Init/WF.lean:2]: > They are annoying to use if they are namespaced.

Really?  `open PSigma` works just fine (for the core function).  (I completely agree that leanprover/lean4#849 is the proper fix here though.)

> There is a similar definition in Init.WF, but it is nondependent.

I am not sure if this makes it better; we now have two functions with the same name, same purpose, but different types.  At least a prime would be good here for disambiguation.

[the remark this answers is not in the document]
Comment (digama0) [reply Mathlib/Init/WF.lean:7]: It wouldn't be good to have `open PSigma` at the top level because the user probably isn't doing anything related to `PSigma` except for the specification of the well founded relation (they didn't ask for it, it is just how the compilation works). If we really want to put these in the PSigma namespace then `termination_by` should automatically open this namespace (or perhaps some other namespace dedicated to termination relations), because it is so different from everything else in the user's file.

File: Mathlib/Data/BinaryHeap.lean (hunk 1 above)
Comment (gebner) [reply Mathlib/Data/BinaryHeap.lean]: Personally I find the measure version much easier to read compared to explicitly specifying the relations.  Although ideally `measure` would accept functions into any well-ordered type.  Then you could write `measure fun ⟨α, lt, a, i⟩ => (⟨a.size, -i⟩ : (n : ℕ) ×' Fin n)` or `measure fun ⟨α, lt, a, i⟩ => (⟨a.size, i⟩ : (n : ℕ) ×' OrderDual (Fin n))`.  The OrderDual version also works for any finite type, not just Fin n.
